US05101048
Preparation of 3-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 27a)
If the procedure described in Preparation LXXXIII is followed starting from 2 g (16.8.10-3 mol) of 3-hydroxybenzonitrile, 2.9 mg (16.5.10-3 mol) of silver imidazolate, 6.5 g (18.3.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide and 4.6 g (33.6.10-3 mol) of zinc chloride in 80 ml of methylene chloride, 2.2 g (yield: 33%) of the expected product are obtained after purification by chromatography on silica gel using a hexane/ethyl acetate mixture (3/1 v/v) as the eluent, and precipitation in ether.

reactant | 3-hydroxybenzonitrile | 2 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 6.5 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | silver imidazolate | 2.9 mg | [N-]1C=NC=C1.[Ag+]
catalyst | zinc chloride | 4.6 g | [Cl-].[Zn+2].[Cl-]
product | 3-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 2.2 g, yield: 33% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO7S
